US04431653
The mixture of 4-[2-cyanoethyl]pyridine (1.32 g, 0.01 M), 1,4-diaminobutane (0.88 g, 0.01 M) and 1,4-diaminobutane di-p-toluenesulfonate (4.32 g, 0.01 M) was heated at about 190° to about 200° C. for 4 hrs. The residue was stirred with ethanol (20 ml) which contained EtONa (0.02 M) and filtered. The filtrate was concentrated and distilled at 0.07 mmHg and a temperature of about 180° to about 200° C. to give 4,5,6,7-tetrahydro-2[2-(4-pyridyl)ethyl]-1H-1,3-diazepine (1.9 g, 93% yield).

reactant | 4-[2-cyanoethyl]pyridine | 0.01 M, 1.32 g | C(#N)CCC1=CC=NC=C1 | C8H8N2
reactant | 1,4-diaminobutane | 0.01 M, 0.88 g | NCCCCN | C4H12N2
reactant | 1,4-diaminobutane di-p-toluenesulfonate | 0.01 M, 4.32 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C1(=CC=C(C=C1)S(=O)(=O)O)C.NCCCCN
reactant | EtONa | 0.02 M | CC[O-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4,5,6,7-tetrahydro-2[2-(4-pyridyl)ethyl]-1H-1,3-diazepine | 1.9 g, 93% yield | N1=CC=C(C=C1)CCC=1NCCCCN1 | C12H17N3
